US09079889B2
Method 1 was followed using 6-bromopicolinic acid (1.0 equiv.) and 2,6-difluoro-4-methoxyphenylboronic acid (1.3 equiv.) and Pd(dppf)Cl2-DCM (0.15 equiv.) to give 6-(2,6-difluoro-4-methoxyphenyl)picolinic acid in 42% yield. LC/MS=266.1 (M+H), Rt=0.75 min.

reactant | 6-bromopicolinic acid | 1.0 equiv. | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | 2,6-difluoro-4-methoxyphenylboronic acid | 1.3 equiv. | FC1=C(C(=CC(=C1)OC)F)B(O)O | C7H7BF2O3
catalyst | Pd(dppf)Cl2 DCM | 0.15 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 6-(2,6-difluoro-4-methoxyphenyl)picolinic acid | 42% yield | FC1=C(C(=CC(=C1)OC)F)C1=CC=CC(=N1)C(=O)O | C13H9F2NO3
